US04402958
8-Phenyl-3-methyl-1,2,4-triazolo[4,3-a]pyrazine
A solution of 0.78 g. of 2-hydrazino-3-phenylpyrazine in 6.0 ml. of triethyl orthoacetate is heated under reflux for one hour. The reaction mixture is cooled in an ice bath and the precipitated solid is collected by filtration. The solid is recrystallized from ethanol to give 0.49 g. of the desired product as tan crystals, m.p. 178°-180° C.

reactant | 2-hydrazino-3-phenylpyrazine | N(N)C1=NC=CN=C1C1=CC=CC=C1 | C10H10N4
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
product | 8-Phenyl-3-methyl-1,2,4-triazolo[4,3-a]pyrazine | C1(=CC=CC=C1)C=1C=2N(C=CN1)C(=NN2)C | C12H10N4
